US07326801B2
b) N-Boc-(R)-2-amino-4-(4-benzyloxy-phenyl)-2-methyl-butan-1-ol
To a solution of (R)-2-amino-4-(4-benzyloxy-phenyl)-2-methyl-butan-1-ol (1.85 g; 6.5 mmol) in dichloromethane is added triethylamine (1.08 ml; 7.8 mmol) and di-tert-butyl dicarbonate (1.56 g; 7.15 mmol). After further addition of dichloromethane (10 ml) and THF (5 ml) the reaction mixture is kept at RT for 14 hours. The solvents are evaporated under reduced pressure and pure title compound is obtained by recrystallisation from ethyl acetate/n-hexane. MS (ES) 386.2 [M+H]+

reactant | (R)-2-amino-4-(4-benzyloxy-phenyl)-2-methyl-butan-1-ol | 6.5 mmol, 1.85 g | N[C@@](CO)(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C18H23NO2
reactant | triethylamine | 7.8 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 7.15 mmol, 1.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-Boc-(R)-2-amino-4-(4-benzyloxy-phenyl)-2-methyl-butan-1-ol | C(=O)(OC(C)(C)C)N[C@@](CO)(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C23H31NO4
